US04491579
(2) Z-D-Arg(NO2)-Phe-OtBu
Equimolar quantities of Z-D-Arg(NO2)-OH and H-Phe-OtBu were dissolved in DMF and coupled by adding DCC and HOBt under the conditions described in Example 1(2), DCU was filtered off, and the organic EtOAc layer of the filtrate was then extracted successively with acid, base and water, dried and crystallized from EtOAc-hexane mixture. The peptide subsequently purified with the aid of an SiO2 column has an Rf of 0.52 in To/EtOH (4:1).

reactant | Z-D-Arg(NO2)-OH | N([C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19N5O6
reactant | H-Phe-OtBu | N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C | C13H19NO2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-D-Arg(NO2)-Phe-OtBu | N([C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H36N6O7
